US05811218
Synthesis of N-(p-cyanophenyl)-glycine (Compound No. 2)
In a 500-ml three-necked flask, 4-cyanoaniline (100 g, 847.4 mmoles) was placed, followed by addition of 300 ml of water and attachment of a water cooling pipe, a mechanical stirrer and a dropping funnel. The flask was heated on an oil bath heated at 100° C. To the flask, an aqueous solution (water 150 ml) of monochloroacetic acid (104 g, 1116 mmoles) was added dropwise for about 30 minutes, followed by reflux with heating for 2.5 hours. After cooling naturally, about 100 ml of ethyl acetate was added to the flask to dissolve an insoluble matter. An organic layer was separated by a separatory funnel. The residual water layer and an aqueous layer obtained by extracting the organic layer with 100 ml of 5% (by weight) NaOH solution were combined, followed by acidolysis with 1/10N HCl. A precipitate produced was filtered and washed with water several times. After drying in an oven heated at 60° C. for 3 hours, the dried precipitate was dried in a vacuum desiccator overnight. The resulting product was a beige powder which showed no melting point but decomposed at 233.1° C. The yield was 38.8 g (26%).

reactant | 4-cyanoaniline | 847.4 mmoles, 100 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
reactant | water | 300 ml | O | H2O
reactant | monochloroacetic acid | 1116 mmoles, 150 ml, 104 g | ClCC(=O)O | C2H3ClO2
solvent | ethyl acetate | about 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(p-cyanophenyl)-glycine | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
